US07320973B2
(R)-2-Hydroxymethyl-1-(4-dimethylaminophenethyl)pyrrolidine (4.91 g, 19.8 mmol) was dissolved in 60 ml of dichloromethane. 3.11 g (24.4 mmol) of diisopropylethylamine and 2.75 g (24.0 mmol) of methanesulfonyl chloride were added to the obtained solution under stirring under cooling with ice. They were stirred under cooling with ice for 1 hour and then at room temperature for 2 hours. The reaction mixture was distributed into dichloromethane and saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was subjected to the silica gel column chromatography. After the elution with hexane and ethyl acetate (9:1) as the eluent, suitable fractions were collected and the solvent was evaporated under reduced pressure to obtain (R)-3-chloro-1-(4-dimethylaminophenethyl)piperidine in the form of a light yellow solid (3.03 g, 57%)

reactant | (R)-2-Hydroxymethyl-1-(4-dimethylaminophenethyl)pyrrolidine | 19.8 mmol, 4.91 g | OC[C@@H]1N(CCC1)CCC1=CC=C(C=C1)N(C)C | C15H24N2O
reactant | diisopropylethylamine | 24.4 mmol, 3.11 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 24.0 mmol, 2.75 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | (R)-3-chloro-1-(4-dimethylaminophenethyl)piperidine | Cl[C@H]1CN(CCC1)CCC1=CC=C(C=C1)N(C)C | C15H23ClN2
